US07816542B2
A sample of 4-amino-2-hydroxysalicylic acid (10 g, 65.3 mmol) is charged to a 2 liter Erlenmeyer flask equipped with a large stir bar, cooled in an ice/water bath and treated with concentrated sulfuric acid (20 mL) and enough water to make a free flowing suspension (˜50 mL). After stirring for 20 minutes, the reaction is treated with a solution of sodium nitrite (4.55 g, 66.0 mmol) in water (20 mL) over the course of 10 minutes. After stirring an additional 3 minutes, the reaction is treated with a solution of potassium iodide (16.9 g, 101 mmol) in water (30 mL) over the course of 15 minutes. The cooling bath is removed and the reaction is carefully monitored and stirred as it generates a significant amount of nitrogen gas. After the reaction subsides, it is briefly heated to 70° C. after which it is allowed to cool to room temperature and sit overnight. The resulting solid is collected by filtration, washed with water and dried to give crude 2-hydroxy-4-iodo-benzoic acid that is used in the next reaction without further purification: ESMS m/z 265.0 (M+H+).

reactant | 4-amino-2-hydroxysalicylic acid | 65.3 mmol, 10 g | NC1=CC(C(C(=O)O)C=C1)(O)O | C7H9NO4
reactant | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 66.0 mmol, 4.55 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 101 mmol, 16.9 g | [I-].[K+]
solvent | water | 20 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | 2-hydroxy-4-iodo-benzoic acid | OC1=C(C(=O)O)C=CC(=C1)I | C7H5IO3
